US09334278B2
To a stirred suspension of 2-bromo-3-chloro-5H-pyrrolo[2,3-b]pyrazine-7-carbaldehyde (2.0 g, 7.69 mmol) was added LiHMDS (1 M in THF) (9.46 mL, 9.46 mmol) at 0° C. After 1 h, trimethylsilyl ethoxy methoxy chloride (1.5 mL, 8.46 mmol) was added and the reaction mixture warmed to room temperature over 30 min. The reaction mixture was diluted with aqueous Na2CO3 solution (1.56 g in 35 mL water) and then extracted with ethyl acetate (100 mL×3). The combined organic layers were washed with brine, then purified by chromatography (silica, 5-10% ethyl acetate in hexanes) to give 2-bromo-3-chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carbaldehyde (1.96 g, 65%) as a brown solid. LC-MS: 392.2 (M+H).

reactant | 2-bromo-3-chloro-5H-pyrrolo[2,3-b]pyrazine-7-carbaldehyde | 7.69 mmol, 2.0 g | BrC=1N=C2C(=NC1Cl)NC=C2C=O | C7H3BrClN3O
reactant | LiHMDS | 9.46 mmol, 1 M, 9.46 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | trimethylsilyl ethoxy methoxy chloride | 8.46 mmol, 1.5 mL | C[Si](C)(C)C(OCl)OCC | C6H15ClO2Si
reactant | Na2CO3 | 35 mL, 1.56 g | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-bromo-3-chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carbaldehyde | 1.96 g, 65% | BrC=1N=C2C(=NC1Cl)N(C=C2C=O)COCC[Si](C)(C)C | C13H17BrClN3O2Si
